US04939138
Following a procedure similar to that described in Example 2A above, (+)-3-(4-morpholinylmethyl)-5-methyl-6-(1-naphthylcarbonyl)-2,3-dihydropyrrolo1,2,3-de]-1,4-benzoxazine methanesulfonate (11.6 g from methanol/diethyl ether), m.p. 256°-259° C., [α]D25 =+40.2° (1% in DMF) was prepared by reaction of 15.5 g (0.062 mole) of (+)-3-(4-morpholinylmethyl)-4-amino-3,4-dihydro-2H-1,4-benzoxazine with 15.8 g (0.075 mole) of 4-(1-naphthyl)-2,4-butanedione in 500 ml of toluene in the presence of a catalytic amount of pyridine 3-nitrobenzenesulfonate (the 2,4-diketone being prepared by reaction of methyl 1-naphthyl ketone with ethyl acetate in the presence of sodium hydride and ethanol in diethyl ether), followed by cyclization of the resulting hydrazone by refluxing the latter in 300 ml of glacial acetic acid and recrystallization of the product from methanol/diethyl ether.

reactant | (+)-3-(4-morpholinylmethyl)-4-amino-3,4-dihydro-2H-1,4-benzoxazine | 0.062 mole, 15.5 g | N1(CCOCC1)CC1COC2=C(N1N)C=CC=C2 | C13H19N3O2
reactant | 4-(1-naphthyl)-2,4-butanedione | 0.075 mole, 15.8 g | C1(=CC=CC2=CC=CC=C12)C(CC(C)=O)=O | C14H12O2
reactant | pyridine 3-nitrobenzenesulfonate | [N+](=O)([O-])C=1C=C(C=CC1)S(=O)(=O)O.N1=CC=CC=C1
reactant | methyl 1-naphthyl ketone | C1(=CC=CC2=CC=CC=C12)C(=O)C | C12H10O
reactant | sodium hydride | [H-].[Na+]
solvent | DMF | CN(C)C=O | C3H7NO
solvent | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | ethanol | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1,4-benzoxazine methanesulfonate | 11.6 g | CS(=O)(=O)O.O1CC=NC2=C1C=CC=C2 | InChI=1S/C8H7NO.CH4O3S/c1-2-4-8-7(3-1)9-5-6-10-8;1-5(2,3)4/h1-5H,6H2;1H3,(H,2,3,4)
